US08580824B2
To a solution 4-benzyloxy-3-ethyl-N-[2-(2-isobutyl-6-methyl-pyridin-4-yl)-2-oxo-ethyl]-5-methyl-benzamide (70 mg, 0.153 mmol) in THF (2 mL), Burgess reagent (95 mg, 0.377 mmol) is added and the mixture is refluxed for 2 h. Another portion of Burgess reagent (50 mg, 0.231 mmol) is added and stirring is continued at rt for 16 h. The solvent is evaporated and the crude product is purified on prep. TLC with heptane:EA 1:2 to give 4-[2-(4-benzyloxy-3-ethyl-5-methyl-phenyl)-oxazol-5-yl]-2-isobutyl-6-methyl-pyridine (24 mg) as a yellow oil; LC-MS: tR=1.33*, [M+1]+=441.04.

reactant | 4-benzyloxy-3-ethyl-N-[2-(2-isobutyl-6-methyl-pyridin-4-yl)-2-oxo-ethyl]-5-methyl-benzamide | 0.153 mmol, 70 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)NCC(=O)C2=CC(=NC(=C2)C)CC(C)C)C=C1C)CC | C29H34N2O3
reactant | Burgess reagent | 0.377 mmol, 95 mg | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
reactant | Burgess reagent | 0.231 mmol, 50 mg | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
reactant | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-[2-(4-benzyloxy-3-ethyl-5-methyl-phenyl)-oxazol-5-yl]-2-isobutyl-6-methyl-pyridine | 24 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)C=1OC(=CN1)C1=CC(=NC(=C1)C)CC(C)C)CC | C29H32N2O2
